US07304081B2
Step 2. tert-butyl 4,4-dimethyl-2-oxo-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate
To a soultion of borane-dimethyl sulfide complex (0.409 mL, 0.00460 mol) in methylene chloride (6.00 mL, 0.0936 mol) was slowly added a solution of tert-butyl 3-(1,1-dimethylprop-2-en-1-yl)-3-hydroxypyrrolidine-1-carboxylate (3.20 g, 0.0125 mol) in methylene chloride (6.00 mL, 0.0936 mol) with stirring at rt. After 2 h, the reaction mixture was slowly added to a solution of chromium(VI) oxide (7.52 g, 0.0752 mol) in acetic acid (45.00 mL, 0.7915 mol), and water (5.00 mL, 0.278 mol) at 5° C. After stirring the reaction mixture at rt for 12 h, water (60 mL) and methylene chloride (30 mL) were added. The organic layer was seperated and the aqueous layer was further extracted with methylene chloride (2×30 mL). The organic layers were combined, washed with brine (2×30 mL), dried and concentrated. The residue was purified on silica gel, eluting with 0 to 50% EtOAc in hexane, to give the product. LCMS (M+Na) 292.2.

reactant | tert-butyl 3-(1,1-dimethylprop-2-en-1-yl)-3-hydroxypyrrolidine-1-carboxylate | 0.0125 mol, 3.20 g | CC(C=C)(C)C1(CN(CC1)C(=O)OC(C)(C)C)O | C14H25NO3
reactant | acetic acid | 0.7915 mol, 45.00 mL | C(C)(=O)O | C2H4O2
reactant | water | 0.278 mol, 5.00 mL | O | H2O
reactant | water | 60 mL | O | H2O
catalyst | chromium(VI) oxide | 0.0752 mol, 7.52 g | [O-2].[Cr+6].[O-2].[O-2]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.0936 mol, 6.00 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.0936 mol, 6.00 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4,4-dimethyl-2-oxo-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate | CC1(CC(OC12CN(CC2)C(=O)OC(C)(C)C)=O)C | C14H23NO4
